US07696200B2
Sodium hydride (55% dispersion in mineral oil, 603 mg, 13.8 mmol) was added to a solution of ethyl glycolate (1.43 g, 13.8 mmol) in 1,4-dioxane, and the reaction mixture was heated at 70° C. for 1 h, then 5-bromo-2-chloro-3-nitropyridine (Eur. Pat. Appl. EP 122109 (1984); 1.64 g, 6.91 mmol) was added, and stirring was continued at 70° C. for 1 h and at room temperature for 16 h. The reaction mixture was then neutralized with sat. aq. sodium hydrogencarbonate solution and extracted three times with dichloromethane. The organic layers were pooled, dried (Na2SO4), and evaporated. Chromatography (SiO2, hexane-ethyl acetate gradient) furnished (5-bromo-3-nitro-pyridin-2-yloxy)-acetic acid ethyl ester (1.03 g, 49%). Light yellow liquid, MS (ISP)=305.1 (M+H)+.

reactant | Sodium hydride | 13.8 mmol, 603 mg | [H-].[Na+]
reactant | ethyl glycolate | 13.8 mmol, 1.43 g | C(CO)(=O)OCC | C4H8O3
reactant | 5-bromo-2-chloro-3-nitropyridine | 6.91 mmol, 1.64 g | BrC=1C=C(C(=NC1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | (5-bromo-3-nitro-pyridin-2-yloxy)-acetic acid ethyl ester | 1.03 g, 49% | C(C)OC(COC1=NC=C(C=C1[N+](=O)[O-])Br)=O | C9H9BrN2O5
